US08119627B2
1-(Furan-3-carbonyl)-piperidin-4-one HVB01118 C10H11NO3, MW 193.20
4-piperidone hydrochloride monohydrate (0.32 g, 2.1 mmol) was dissolved in DCM (7 ml), and to this was added MP-Carbonate resin (0.8 g). This was stirred at room temperature for 2 h. Separately, 3-furoic acid (0.28 g, 2.52 mmol), N N-4-dimethylaminopyridine (cat.), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.2 g, 6.3 mmol) and TEA (0.25 ml) were dissolved in DCM (7 ml) and stirred at room temperature for 2 h. The 2 reaction mixtures were then combined and stirred at room temperature for 18 h. The resulting solution was then filtered and washed with HCl (1M), sodium bicarbonate then brine. The organic layers were combined and dried over MgSO4 and evaporated to dryness. The crude mixture was purified using flash chromatography (0-100% ethyl acetate in hexane), to yield a cream oil. 225 mg, (63%), LCMS tr=1.96 min (50% MeOH and 50% water at 0.5 ml/min), m/z M+H 194.16, HPLC tr=1.82 min (Isocratic 90% acetonitrile and 10% water at 1.0 ml/min), 100%, 1HNMR (CDCl3, 270 MHz) δ 2.41 (4H, t, J=6.2 Hz, CH2), 3.85 (4H, t, J=6.2 Hz, CH2), 6.50 (1H, dd, J=1.0, 2.0 Hz, ArH), 7.37 (1H, t, J=1.7 Hz, ArH), 7.68 (1H, dd, J=1.0, 1.7 Hz, ArH).

reactant | 4-piperidone hydrochloride monohydrate | 2.1 mmol, 0.32 g | O.Cl.N1CCC(CC1)=O
reactant | MP-Carbonate resin | 0.8 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
reactant | 3-furoic acid | 2.52 mmol, 0.28 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.3 mmol, 1.2 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | MeOH | CO | CH4O
product | 1-(Furan-3-carbonyl)-piperidin-4-one | O1C=C(C=C1)C(=O)N1CCC(CC1)=O | C10H11NO3
